US07576082B2
A solution of 2-naphthylmagnesium bromide in tetrahydrofuran (0.5 M, 8.26 mL, 4.13 mmol) (Aldrich) was added dropwise with magnetic stirring to a suspension of 6-chloroisatin (0.3 g, 1.67 mmol) in tetrahydrofuran (10 mL) with cooling in a −25° C. bath at such a rate that reaction temperature was kept below −10° C. Cooling bath was then removed and mixture was allowed to warm to room temperature. After stirring for an additional 4 hours, 15% aqueous ammonium chloride solution was added and mixture extracted with ethyl acetate. The combined organic layers were then washed with water, brine, combined, dried (Na2SO4), filtered and concentrated. Residue was stirred in dichloromethane at room temperature for 15 minutes and filtered to give crude rac-6-chloro-3-hydroxy-3-naphthalen-2-yl-1,3-dihydro-indol-2-one as a red solid. This was used in the next step without further purification.

reactant | 2-naphthylmagnesium bromide | C1=C(C=CC2=CC=CC=C12)[Mg]Br
reactant | 6-chloroisatin | 1.67 mmol, 0.3 g | ClC1=CC=C2C(C(NC2=C1)=O)=O | C8H4ClNO2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4.13 mmol, 0.5 M, 8.26 mL | O1CCCC1 | C4H8O
product | rac-6-chloro-3-hydroxy-3-naphthalen-2-yl-1,3-dihydro-indol-2-one | ClC1=CC=C2C(C(NC2=C1)=O)(C1=CC2=CC=CC=C2C=C1)O | C18H12ClNO2
